US05550121
(2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[1-hydroxy-2-(methoxycarbonyl)ethyl]pyrrolidine
To tetrahydrofuran (5 ml) were successively dropwise added a 1.0M sodium hexamethyldisilazide--tetrahydrofuran solution (0.910 ml, 0.910 mmol) and methyl acetate (72.0 μl) at -78° C. The mixture was stirred for 30 minutes, and a tetrahydrofuran solution of (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal (200 mg, 0.607 mmol) was added thereto at the same temperature. This solution was stirred for 30 minutes. Saturated aqueous ammonium chloride was added to the reaction solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate. The solvent was removed in vacuo. The residue was purified by silica gel column chromatography (heptane-ethyl acetate=3:1) to give the title compound [232 mg, yield: 94.7%; (R)-isomer (polar compound):(S)-isomer (less polar compound)=6.27:1].

reactant | sodium hexamethyldisilazide | 1.0M | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | methyl acetate | 72.0 μl | C(C)(=O)OC | C3H6O2
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal | 0.607 mmol, 200 mg | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.910 mmol, 0.910 ml | O1CCCC1 | C4H8O
product | (2S,4R)-N-tert-Butoxycarbonyl-4-tert-butyldimethylsiloxy-2-[1-hydroxy-2-(methoxycarbonyl)ethyl]pyrrolidine | yield: 94.7% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(CC(=O)OC)O | C19H37NO6Si
